US07977358B2
In analogy to the procedures described for intermediates 1A-E, the title compound has been obtained by i) condensation of methyl 4-methoxyacetoacetate with methoxyacetyl chloride to give 4-methoxy-2-(2-methoxy-acetyl)-3-oxo-butyric acid methyl ester; ii) methylation of 4-methoxy-2-(2-methoxy-acetyl)-3-oxo-butyric acid methyl ester with methyl trifluoromethanesulfonate to give (E and/or Z)-3,4-dimethoxy-2-(2-methoxy-acetyl)-but-2-enoic acid methyl ester; iii) condensation of (E and/or Z)-3,4-dimethoxy-2-(2-methoxy-acetyl)-but-2-enoic acid methyl ester with (3-bromo-phenyl)-hydrazine to give 1-(3-bromo-phenyl)-3,5-bis-methoxymethyl-1H-pyrazole-4-carboxylic acid methyl ester; iv) reaction of 1-(3-bromo-phenyl)-3,5-bis-methoxymethyl-1H-pyrazole-4-carboxylic acid methyl ester with (E)-2-(4-chlorophenyl)vinyl boronic acid to give 1-{3-[(E)-2-(4-chloro-phenyl)-vinyl]-phenyl}-3,5-bis-methoxymethyl-1H-pyrazole-4-carboxylic acid methyl ester; v) saponification of 1-{3-[(E)-2-(4-chloro-phenyl)-vinyl]-phenyl}-3,5-bis-methoxymethyl-1H-pyrazole-4-carboxylic acid methyl ester to give the title compound as light brown solid. MS: 411.2 ([M−H]−, 1 Cl).

reactant | methyl 4-methoxyacetoacetate | COCC(CC(=O)OC)=O | C6H10O4
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 4-methoxy-2-(2-methoxy-acetyl)-3-oxo-butyric acid methyl ester | COC(C(C(COC)=O)C(COC)=O)=O | C9H14O6
